US08877782B2
a) 6-[3-(3-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid
As described for example 91a, 6-[3-(3-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (734 mg, 2.1 mmol), instead of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, was converted, to the title compound (592 mg, 84%) which was obtained as a white solid. MS: m/e=343.4 [M−H]−.

reactant | 6-[3-(3-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 2.1 mmol, 734 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)Cl)=O | C18H15ClN2O4
reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
product | 6-[3-(3-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 592 mg, 84% | ClC=1C=C(C=CC1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13ClN2O4
